US07326792B2
Step 1: (tert-Butyl-dimethyl-silanyloxy)-phenyl-acetic acid methyl ester.
To a solution of commercially available methyl (S)-mandelate (2.39 g, 14.4 mmol) in dichloromethane (50 mL) is added imidazole (1.18 g, 17.3 mmol), tert-butyldimethylsilyl chloride (2.38 g, 15.8 mmol) and 4-dimethylaminopyridine (176 mg, 1.44 mmol). The mixture is stirred for 16 hrs then diluted with ether, washed with water, brine, then dried (MgSO4), filtered and concentrated. The residue is purified by chromatography on silica gel; elution with EtOAc:heptane (25:75) gives 3.67 g of the product. 1H NMR (CDCl3) δ 7.45-7.40 (m, 2H), 7.35-7.25 (m, 3H), 5.20 (s, 1H), 3.65 (s, 3H), 0.90 (s, 9H), 0.10 (s, 3H), 0.05 (s, 3H); MS: m/z 281 (M++1)

reactant | methyl (S)-mandelate | 14.4 mmol, 2.39 g | C([C@@H](O)C1=CC=CC=C1)(=O)OC | C9H10O3
reactant | imidazole | 17.3 mmol, 1.18 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 15.8 mmol, 2.38 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.44 mmol, 176 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | CCOCC | C4H10O
product | (tert-Butyl-dimethyl-silanyloxy)-phenyl-acetic acid methyl ester | 3.67 g | COC(C(C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C15H24O3Si
